US08476450B2
Synthesis of (2-cyano-quinolin-6-yl) phosphoric acid
To the solution of diethyl (2-cyano-quinolin-6-yl) phosphate (0.58 g, 1.86 mmol) in 10 ml of methylene chloride was added iodotrimethylsilane (0.82 g, 4.1 mmol). The resultant mixture was stirred for 40 minutes and then added to the solution of p-toluidine (1.50 g, 14.0 mmol) in 20 ml. After the solvent was partially removed, the white yellow precipitate was collected by filtration and washed with ethanol and ether to give a yield of 92%.

reactant | diethyl (2-cyano-quinolin-6-yl) phosphate | 1.86 mmol, 0.58 g | P(=O)(OCC)(OCC)OC=1C=C2C=CC(=NC2=CC1)C#N | C14H15N2O4P
reactant | iodotrimethylsilane | 4.1 mmol, 0.82 g | I[Si](C)(C)C | C3H9ISi
reactant | p-toluidine | 14.0 mmol, 1.50 g | NC1=CC=C(C=C1)C | C7H9N
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | (2-cyano-quinolin-6-yl) phosphoric acid | yield of 92% | C(#N)C1=NC2=CC=C(C=C2C=C1)OP(O)(O)=O | C10H7N2O4P
